US04892881
1-Amino-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxy-2-methylpropane fumarate
A solution of 1-azido-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxy-2-methylpropane (1.54 g), propane-1,3-dithiol (1.2 ml) and triethylamine (1.7 ml) in methanol (30 ml) was stirred at room temperature for eight days, filtered and evaporated. The residue was partitioned between ethyl acetate and water and the layers separated. The organic layer was washed with water, dried over Na2SO4 and evaporated. The residue was purified by chromatography on SiO2 (15 g) using dichloromethane plus 0-40% methanol as the eluant. Appropriate fractions were combined and evaporated. The residue was taken up in ethyl acetate and the solution was treated with excess fumaric acid. The resulting solid was collected, washed with ethyl acetate and dried to give the title compound (0.49 g), m.p. 110°-115° C.

reactant | 1-azido-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxy-2-methylpropane | 1.54 g | N(=[N+]=[N-])CC(COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C)(C)O | C22H26Cl2N4O6
reactant | propane-1,3-dithiol | 1.2 ml | C(CCS)S | C3H8S2
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 30 ml | CO | CH4O
product | 1-Amino-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxy-2-methylpropane fumarate | 0.49 g | C(\C=C\C(=O)O)(=O)O.NCC(COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C)(C)O | InChI=1S/C22H28Cl2N2O6.C4H4O4/c1-5-32-21(28)18-15(9-31-11-22(3,29)10-25)26-12(2)16(20(27)30-4)17(18)13-7-6-8-14(23)19(13)24;5-3(6)1-2-4(7)8/h6-8,17,26,29H,5,9-11,25H2,1-4H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
